US07067517B2
Methyl-phenyl-carbamic acid 7-chloro-quinolin-4-yl ester
A solution of 7-chloro-4-hydroxyquinoline (0.54 g, 3.00 mmol), 1-methyl-3-(methyl-phenyl-carbamoyl)-3H-imidazol-1-ium iodide (1.03 g, 3.00 mmol) and triethylamine (0.42 ml, 3.00 mmol) in acetonitrile (15 ml) was stirred at room temperature for 18 hours. The solvent was evaporated in vacuo and the residue was purified by flash column chromatography (SiO2, ethyl acetate:heptane (40:60)) yielding the title compound (0.87 g, 93% yield) as a colourless oil which solidified upon standing.

reactant | 7-chloro-4-hydroxyquinoline | 3.00 mmol, 0.54 g | ClC1=CC=C2C(=CC=NC2=C1)O | C9H6ClNO
reactant | 1-methyl-3-(methyl-phenyl-carbamoyl)-3H-imidazol-1-ium iodide | 3.00 mmol, 1.03 g | [I-].C[N+]1=CN(C=C1)C(N(C1=CC=CC=C1)C)=O
reactant | triethylamine | 3.00 mmol, 0.42 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | Methyl-phenyl-carbamic acid 7-chloro-quinolin-4-yl ester | 0.87 g, 93% yield | ClC1=CC=C2C(=CC=NC2=C1)OC(N(C1=CC=CC=C1)C)=O | C17H13ClN2O2
